US06716861B2
tert-butyl (2S)-2-cyano-1-pyrrolidinecarboxylate
A solution of oxalyl chloride (11.0 ml, 0.126 mol) and DMF (11.4 ml, 0.138 mol) in MeCN (170 ml) was treated dropwise with a solution of N-Boc-L-proline amide (12.3 g, 0.57 mol) and pyridine (20.4 ml, 0.253 mol) in MeCN (30 ml) at 0° C. and stirred at this temperature for 15 minutes. The reaction mixture was diluted with EtOAc and washed with H2O (×3). The organic extract was dried over anhydrous MgSO4 and filtered. The solvent was removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of pentane:EtOAc (80:20) gradually changing to (60:40) to afford the title compound (7.40 g, 66%).

reactant | oxalyl chloride | 0.126 mol, 11.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.138 mol, 11.4 ml | CN(C)C=O | C3H7NO
reactant | N-Boc-L-proline amide | 0.57 mol, 12.3 g | C(=O)(OC(C)(C)C)NC([C@H]1NCCC1)=O | C10H18N2O3
reactant | pyridine | 0.253 mol, 20.4 ml | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 170 ml | CC#N | C2H3N
solvent | MeCN | 30 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2S)-2-cyano-1-pyrrolidinecarboxylate | 7.40 g, 66% | C(#N)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H16N2O2
